### PR TITLE
feat(LinearAlgebra/Multilinear/DirectSum, LinearAlgebra/DirectSum/{PiTensorProduct,Finsupp}): interaction between `MultilinearMap` and `DirectSum`, and between `PiTensorProduct` and `DirectSum`

### PR DESCRIPTION
**Pull request by smorel394**
This does three things:
* `MultilinearMap.fromDirectSumEquiv` (in `LinearAlgebra/MultilinearMap/DirectSum.lean`) calculates `MultilinearMap`s on a family of `DirectSum`s. More precisely, if `ι` is a `Fintype`, if `κ i` is a family of types indexed by `ι` and we have a `R`-module `M i j` for every `i : ι` and `j : κ i`, this is the linear equivalence between `Π p : (i : ι) → κ i, MultilinearMap R (fun i ↦ M i (p i)) M'` and `MultilinearMap R (fun i ↦ ⨁ j : κ i, M i j) M'`.
* `PiTensorProduct.directSum` (in `LinearAlgebra/DirectSum/PiTensorProduct.lean`): the distributivity property of a `PiTensorProduct` with respect to `DirectSum`s in all its arguments.
* `finsuppPiTensorProduct` (in `LinearAlgebra/DirectSum/Finsupp.lean`): If `ι` is a `Fintype`, `κ i` is a family of types indexed by `ι` and `M i` is a family of `R`-modules indexed by `ι`, then the tensor product of the family `κ i →₀ M i` is linearly equivalent to `∏ i, κ i →₀ ⨂[R] i, M i`.

- [x] depends on: #11152
- [x] depends on: #11196
- [x] depends on: #17881
- [x] depends on: #17932

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/DirectSum/Finsupp.lean [hunk 1]
```diff
@@ -88,4 +92,109 @@ theorem finsuppTensorFinsupp'_single_tmul_single (a : ι) (b : κ) (r₁ r₂ :
...
+of modules indexed by `ι`, then the tensor product of the family `κ i →₀ M i` is linearly
+equivalent to `∏ i, κ i →₀ ⨂[R] i, M i`.
+-/
+def finsuppPiTensorProduct : (⨂[R] i, κ i →₀ M i) ≃ₗ[R] ((i : ι) → κ i) →₀ ⨂[R] i, M i :=
+  PiTensorProduct.congr (fun i ↦ finsuppLEquivDirectSum R (M i) (κ i)) ≪≫ₗ
+  (PiTensorProduct.directSum R (fun (i : ι) ↦ fun (_ : κ i) ↦ M i)) ≪≫ₗ
+  (finsuppLEquivDirectSum R (⨂[R] i, M i) ((i : ι) → κ i)).symm
+
+@[simp]
+theorem finsuppPiTensorProduct_single (p : (i : ι) → κ i) (m : (i : ι) → M i) :
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/DirectSum/Finsupp.lean:135]:
```suggestion
theorem finsuppPiTensorProduct_tprod_single (p : (i : ι) → κ i) (m : (i : ι) → M i) :
```

File: Mathlib/LinearAlgebra/DirectSum/Finsupp.lean [hunk 2]
```diff
@@ -88,4 +92,109 @@ theorem finsuppTensorFinsupp'_single_tmul_single (a : ι) (b : κ) (r₁ r₂ :
...
+  rw [Finset.sum_apply']
+  rw [← Finset.sum_union_eq_right (s₁ := {p}) (fun _ _ h ↦ by
+       simp only [Fintype.mem_piFinset, Finsupp.mem_support_iff, ne_eq, not_forall, not_not] at h
+       obtain ⟨i, hi⟩ := h
+       rw [(tprod R).map_coord_zero i hi, Finsupp.single_zero, Finsupp.coe_zero, Pi.zero_apply]),
+   Finset.sum_union_eq_left (fun _ _ h ↦ Finsupp.single_eq_of_ne (Finset.not_mem_singleton.mp h)),
+   Finset.sum_singleton, Finsupp.single_eq_same]
+
+@[simp]
+theorem finsuppPiTensorProduct_symm_single (p : (i : ι) → κ i) (m : (i : ι) → M i) :
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/DirectSum/Finsupp.lean:167]:
```suggestion
theorem finsuppPiTensorProduct_symm_single_tprod (p : (i : ι) → κ i) (m : (i : ι) → M i) :
```

File: Mathlib/LinearAlgebra/DirectSum/Finsupp.lean [hunk 3]
```diff
@@ -88,4 +92,109 @@ theorem finsuppTensorFinsupp'_single_tmul_single (a : ι) (b : κ) (r₁ r₂ :
...
+    ⨂ₜ[R] i, Finsupp.single (p i) (m i) :=
+  (LinearEquiv.symm_apply_eq _).2 (finsuppPiTensorProduct_single _ _ _ _ _).symm
+
+variable [(x : R) → Decidable (x ≠ 0)]
+
+/-- A variant of `finsuppPiTensorProduct` where all modules `M i` are the ground ring.
+-/
+def finsuppPiTensorProduct' : (⨂[R] i, (κ i →₀ R)) ≃ₗ[R] ((i : ι) → κ i) →₀ R :=
+  finsuppPiTensorProduct R κ (fun _ ↦ R) ≪≫ₗ
+  Finsupp.lcongr (Equiv.refl ((i : ι) → κ i)) (constantBaseRingEquiv ι R)
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/DirectSum/Finsupp.lean:178]: I guess this depends on #11196

Comment (smorel394) [reply Mathlib/LinearAlgebra/DirectSum/Finsupp.lean:178]: Yes. I added the `blocked` label.

File: Mathlib/LinearAlgebra/DirectSum/Finsupp.lean [hunk 4]
```diff
@@ -88,4 +92,109 @@ theorem finsuppTensorFinsupp'_single_tmul_single (a : ι) (b : κ) (r₁ r₂ :
...
+
+variable (κ : ι → Type*) [(i : ι) → DecidableEq (κ i)]
+
+variable (M : ι → Type*)
+
+variable [∀ i, AddCommMonoid (M i)]
+
+variable [∀ i, Module R (M i)]
+
+variable [(i : ι) → (x : M i) → Decidable (x ≠ 0)]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/DirectSum/Finsupp.lean:123]: Note that the style has now changed to omit these extra blank lines; it was only ever a result of `mathport` anyway.
```suggestion
variable (R : Type*) [CommSemiring R]
variable {ι : Type*}
variable [Fintype ι]
variable [DecidableEq ι]
variable (κ : ι → Type*) [(i : ι) → DecidableEq (κ i)]
variable (M : ι → Type*)
variable [∀ i, AddCommMonoid (M i)]
variable [∀ i, Module R (M i)]
variable [(i : ι) → (x : M i) → Decidable (x ≠ 0)]
```

File: Mathlib/LinearAlgebra/DirectSum/PiTensorProduct.lean [hunk 5]
```diff
@@ -0,0 +1,70 @@
...
+
+variable {κ : ι → Type*} [(i : ι) → DecidableEq (κ i)]
+
+variable (M : (i : ι) → κ i → Type*) (M' : Type*)
+
+variable [Π i (j : κ i), AddCommMonoid (M i j)] [AddCommMonoid M']
+
+variable [Π i (j : κ i), Module R (M i j)] [Module R M']
+
+variable [Π i (j : κ i) (x : M i j),  Decidable (x ≠ 0)]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/DirectSum/PiTensorProduct.lean:41]: Here too

Comment (smorel394) [reply Mathlib/LinearAlgebra/DirectSum/PiTensorProduct.lean]: Ok. I think I found all extra blank lines between variables (I also fixed the proof that wasn;'t working anymore).

File: Mathlib/LinearAlgebra/Multilinear/DirectSum.lean [hunk 6]
```diff
@@ -0,0 +1,162 @@
...
+    rw [← Finset.smul_sum]
+    conv_lhs => rw [← Finset.sum_congr rfl (fun p _ ↦ by rw [← fromDirectSum_aux2 _ _ _ p _]),
+      Finset.sum_union_eq_left (fun p _ hp ↦ by
+          letI := myinst
+          exact fromDirectSum_aux1 _ _ f _ hp)]
+
+@[simp]
+theorem fromDirectSum_apply (f : Π (p : Π i, κ i), MultilinearMap R (fun i ↦ M i (p i)) M')
+    (x : Π i, ⨁ (j : κ i), M i j) : fromDirectSum R κ f x =
+    ∑ p in Fintype.piFinset (fun i ↦ (x i).support), f p (fun i ↦ x i (p i)) := rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/LinearAlgebra/Multilinear/DirectSum.lean:101]:
```suggestion
    (x : Π i, ⨁ (j : κ i), M i j) :
    fromDirectSum R κ f x =
      ∑ p in Fintype.piFinset (fun i ↦ (x i).support), f p (fun i ↦ x i (p i)) :=
  rfl
```

File: Mathlib/LinearAlgebra/Multilinear/DirectSum.lean [hunk 7]
```diff
@@ -0,0 +1,162 @@
...
+
+* `MultilinearMap.fromDirectSumEquiv` : If 'ι` is a `Fintype`, `κ i` is a family of types
+indexed by `ι` and we are given a `R`-module `M i j` for every `i : ι` and `j : κ i`, this is
+the linear equivalence between `Π p : (i : ι) → κ i, MultilinearMap R (fun i ↦ M i (p i)) M'` and
+`MultilinearMap R (fun i ↦ ⨁ j : κ i, M i j) M'`.
+-/
+
+namespace MultilinearMap
+
+open DirectSum LinearMap BigOperators Function
```
Comment (Ruben-VandeVelde) [inline Mathlib/LinearAlgebra/Multilinear/DirectSum.lean:24]:
```suggestion
open DirectSum LinearMap Function
```

File: Mathlib/LinearAlgebra/Multilinear/DirectSum.lean [hunk 8]
```diff
@@ -0,0 +1,162 @@
...
+    rw [Finset.sum_add_distrib]
+  map_smul' c f := by
+    ext x
+    simp only [fromDirectSum_apply, Pi.smul_apply, MultilinearMap.smul_apply, RingHom.id_apply]
+    rw [Finset.smul_sum]
+
+@[simp]
+theorem fromDirectSumₗ_apply (f : Π (p : Π i, κ i), MultilinearMap R (fun i ↦ M i (p i)) M')
+    (x : Π i, ⨁ (j : κ i), M i j) : fromDirectSumₗ R κ f x =
+    ∑ p in Fintype.piFinset (fun i ↦ (x i).support), f p (fun i ↦ x i (p i)) := rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/LinearAlgebra/Multilinear/DirectSum.lean:119]:
```suggestion
    (x : Π i, ⨁ (j : κ i), M i j) :
    fromDirectSumₗ R κ f x =
      ∑ p in Fintype.piFinset (fun i ↦ (x i).support), f p (fun i ↦ x i (p i)) :=
  rfl
```

File: Mathlib/LinearAlgebra/DirectSum/PiTensorProduct.lean [hunk 9]
```diff
@@ -0,0 +1,64 @@
...
+        not_forall, not_not, forall_exists_index, forall_eq, lof_apply]
+      intro i hi
+      rw [(tprod R).map_coord_zero i hi, LinearMap.map_zero]
+  · ext x
+    simp only [compMultilinearMap_apply, coe_comp, Function.comp_apply, lift.tprod,
+      MultilinearMap.fromDirectSumEquiv_apply, map_sum, toModule_lof, map_tprod, id_coe, id_eq]
+    change _ = tprod R (fun i ↦ x i)
+    nth_rewrite 3 [funext (fun i ↦ Eq.symm (DirectSum.sum_support_of (x i)))]
+    rw [MultilinearMap.map_sum_finset]
+    rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/LinearAlgebra/DirectSum/PiTensorProduct.lean:62]:
```suggestion
    simp only [DirectSum.lof_eq_of]
```

File: Mathlib/LinearAlgebra/Multilinear/DirectSum.lean [hunk 10]
```diff
@@ -0,0 +1,162 @@
...
+
+theorem _root_.piFinset_support_lof_sub (p : Π i, κ i) (a : Π i, M i (p i)) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/LinearAlgebra/Multilinear/DirectSum.lean:121]: Should this be in the `Fintype` namespace?

File: Mathlib/LinearAlgebra/Multilinear/DirectSum.lean [hunk 11]
```diff
@@ -0,0 +1,162 @@
...
+      simp only [lof_apply]
+    · simp only [Finset.mem_singleton, Fintype.mem_piFinset, DFinsupp.mem_support_toFun, ne_eq,
+        not_forall, not_not, forall_exists_index, forall_eq, lof_apply]
+      intro i hi
+      exact (f p).map_coord_zero i hi
+
+@[simp]
+theorem fromDirectSumEquiv_apply (f : Π (p : Π i, κ i), MultilinearMap R (fun i ↦ M i (p i)) M')
+    (x : Π i, ⨁ (j : κ i), M i j) : fromDirectSumEquiv R κ f x =
+    ∑ p in Fintype.piFinset (fun i ↦ (x i).support), f p (fun i ↦ x i (p i)) := rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/LinearAlgebra/Multilinear/DirectSum.lean:155]:
```suggestion
    (x : Π i, ⨁ (j : κ i), M i j) :
    fromDirectSumEquiv R κ f x =
      ∑ p in Fintype.piFinset (fun i ↦ (x i).support), f p (fun i ↦ x i (p i)) :=
  rfl
```

File: Mathlib/LinearAlgebra/Multilinear/DirectSum.lean [hunk 12]
```diff
@@ -0,0 +1,162 @@
...
+
+@[simp]
+theorem fromDirectSumEquiv_symm_apply (f : MultilinearMap R (fun i ↦ ⨁ j : κ i, M i j) M')
+    (p : Π i, κ i) : (fromDirectSumEquiv R κ).symm f p =
+    f.compLinearMap (fun i ↦ DirectSum.lof R (κ i) _ (p i)) := rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/LinearAlgebra/Multilinear/DirectSum.lean:160]:
```suggestion
    (p : Π i, κ i) :
    (fromDirectSumEquiv R κ).symm f p = f.compLinearMap (fun i ↦ DirectSum.lof R (κ i) _ (p i)) :=
  rfl
```

**Review by Ruben-VandeVelde — COMMENTED** [review]
Some stylistic comments below

File: Mathlib/LinearAlgebra/Multilinear/DirectSum.lean [hunk 13]
```diff
@@ -0,0 +1,175 @@
...
+  ext j
+  by_cases h : j = i
+  · rw [h]; simp only [update_same]
+  · simp only [ne_eq, h, not_false_eq_true, update_noteq]
+
+/-- Given a family indexed by `p : Π i : ι, κ i` of multilinear maps on the
+`fun i ↦ M i (p i)`, construct a multilinear map on `fun i ↦ ⨁ j : κ i, M i j`.-/
+def fromDirectSum (f : Π (p : Π i, κ i), MultilinearMap R (fun i ↦ M i (p i)) M') :
+    MultilinearMap R (fun i ↦ ⨁ j : κ i, M i j) M' where
+  toFun x := ∑ p in Fintype.piFinset (fun i ↦ (x i).support), f p (fun i ↦ x i (p i))
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Multilinear/DirectSum.lean:56]: I think there's another direct sum hiding here; I've created #17881 with the DFinsupp version.

This then becomes a sum over the support.

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Multilinear/DirectSum.lean:56]: Turns out this needs #17932 too. I'm working in https://github.com/leanprover-community/mathlib4/tree/eric-wieser/SM.PiTensorProduct.DirectSum on the union of these PRs.

File: Mathlib/LinearAlgebra/Multilinear/DirectSum.lean [hunk 14]
```diff
@@ -0,0 +1,175 @@
...
+    (h : ∀ p : Π i, κ i,
+      f.compLinearMap (fun i => DirectSum.lof R _ _ (p i)) =
+      g.compLinearMap (fun i => DirectSum.lof R _ _ (p i))) : f = g := by
+  ext x
+  show f (fun i ↦ x i) = g (fun i ↦ x i)
+  rw [funext (fun i ↦ Eq.symm (DirectSum.sum_support_of (x i)))]
+  simp_rw [MultilinearMap.map_sum_finset]
+  congr! 1 with p
+  simp_rw [MultilinearMap.ext_iff] at h
+  exact h _ _
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Multilinear/DirectSum.lean:132]: After #18308, this become a one-line proof using the `DFinsupp` result.

File: Mathlib/LinearAlgebra/Multilinear/DirectSum.lean [hunk 15]
```diff
@@ -0,0 +1,88 @@
...
+def fromDirectSumEquiv :
+    ((p : Π i, κ i) → MultilinearMap R (fun i ↦ M i (p i)) M') ≃ₗ[R]
+    MultilinearMap R (fun i ↦ ⨁ j : κ i, M i j) M' :=
+  LinearEquiv.ofLinear
+    ((DirectSum.toModule R _ _ fun _ ↦ .id).compMultilinearMapₗ R ∘ₗ MultilinearMap.dfinsuppFamilyₗ)
+    (LinearMap.pi fun p ↦ MultilinearMap.compLinearMapₗ fun i ↦ DirectSum.lof R (κ i) _ (p i))
+    (by
+      ext f x
+      dsimp
+      erw [MultilinearMap.dfinsuppFamily_single, DirectSum.toModule_lof]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Multilinear/DirectSum.lean:52]: These `erw`s are my fault, and are because we are abusing defeq by using `MultilinearMap.dfinsuppFamilyₗ` instead of duplicating the construction for `directSum`. Probably we should spin out a PR to do that, where all the defs and lemmas are one-liners in terms of the `dfinsupp` versions.

File: Mathlib/LinearAlgebra/Multilinear/DirectSum.lean (hunk 13 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Multilinear/DirectSum.lean]: I've pushed this refactor,

File: Mathlib/LinearAlgebra/Multilinear/DirectSum.lean (hunk 10 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Multilinear/DirectSum.lean]: I deleted this lemma: really it's just `support_lof` / `support_of`, and it wasn't needed after my refactor.

File: Mathlib/LinearAlgebra/Multilinear/DirectSum.lean [hunk 16]
```diff
@@ -0,0 +1,88 @@
...
+      rfl)
+
+@[simp]
+theorem fromDirectSumEquiv_lof
+    [Π i (j : κ i) (x : M i j), Decidable (x ≠ 0)]
+    (f : Π (p : Π i, κ i), MultilinearMap R (fun i ↦ M i (p i)) M')
+    (p : Π i, κ i) (x : Π i, M i (p i)) :
+    fromDirectSumEquiv R κ f (fun i => DirectSum.lof R (κ i) _ (p i) (x i)) = f p x := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Multilinear/DirectSum.lean:65]: Another good lemma to have here would be
```
@[simp]
theorem fromDirectSumEquiv_single
    (p : Π i, κ i) (f : MultilinearMap R (fun i ↦ M i (p i)) M')
    (i : ι) (j : κ i) (x : M i j) :
    fromDirectSumEquiv R κ (Pi.single p f) =
      f.compLinearMap fun i => DirectSum.component R _ _ (p i) := by
```

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Multilinear/DirectSum.lean:64]: #18566 probably helps with such results.

File: Mathlib/LinearAlgebra/Multilinear/DirectSum.lean (hunk 15 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Multilinear/DirectSum.lean]: I've done that in this PR for now, but will come back and split later.
